US07253195B2
2-[2-(3,5-Difluoro-phenyl)-acetylamino]-pentanoic acid [5-(2-phenyl-propylsulfanyl)-[1,3,4]thiadiazol-2-yl]-amide
A mixture of 2-[2-(3,5-difluoro-phenyl)-acetylamino]-pentanoic acid (25.4 mg, 0.2 mmol), 5-(2-phenyl-propylsulfanyl)-[1,3,4]thiadiazol-2-ylamine (50 mg, 0.2 mmol), HBOT (29 mg, 0.21 mmol), EDC HCl (46 mg, 0.24 mmol.) and triethylamine (0.12 ml) in methylene chloride was stirred at room temperature until product formation or disappearance of starting material. The mixture was quenched with water and extracted with methylene chloride. The organic layer was separated, washed with dilute HCl, brine, dried over sodium sulfate and the solvent was removed at reduced pressure to provide the title compound as a cude oil. The oil was purified by Shimadzu HPLC to provide the title compound as a light yellow solid (26 mg), LC-MS M+1=505.0

reactant | 2-[2-(3,5-difluoro-phenyl)-acetylamino]-pentanoic acid | 0.2 mmol, 25.4 mg | FC=1C=C(C=C(C1)F)CC(=O)NC(C(=O)O)CCC | C13H15F2NO3
reactant | 5-(2-phenyl-propylsulfanyl)-[1,3,4]thiadiazol-2-ylamine | 0.2 mmol, 50 mg | C1(=CC=CC=C1)C(CSC1=NN=C(S1)N)C | C11H13N3S2
reactant | EDC HCl | 0.24 mmol, 46 mg | CCN=C=NCCCN(C)C.Cl
reactant | triethylamine | 0.12 ml | C(C)N(CC)CC | C6H15N
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | 2-[2-(3,5-Difluoro-phenyl)-acetylamino]-pentanoic acid [5-(2-phenyl-propylsulfanyl)-[1,3,4]thiadiazol-2-yl]-amide | C1(=CC=CC=C1)C(CSC1=NN=C(S1)NC(C(CCC)NC(CC1=CC(=CC(=C1)F)F)=O)=O)C | C24H26F2N4O2S2
